US09085555B2
D. C-(3-Fluoro-2-trifluoromethyl-pyridin-4-yl)-methylamine
Zinc dust (0.63 g, 9.62 mmol) was added at RT to a solution of 3-fluoro-2-trifluoromethyl-pyridine-4-carbaldehyde oxime (0.460 g, 1.57 mmol) in acetic acid (8 mL). The reaction mixture was stirred at RT for 3 h, then filtered through a 0.45 microns filter, and the filtrate was concentrated in vacuo. The colored oily residue was partitioned between CH2Cl2 and 1N HCl, the layers were separated and the aqueous phase was extracted twice with CH2Cl2. The pH of the aqueous layer was then adjusted to pH=9 by adding a saturated aqueous NaHCO3 solution, and the resulting white suspension was extracted four times with CH2Cl2. The combined organics were dried (phase separator) and concentrated in vacuo to afford the title compound as a yellow oil. MS (LC/MS): 195.0 [M+H]+; tR (HPLC conditions c): 2.47 min.

reactant | 3-fluoro-2-trifluoromethyl-pyridine-4-carbaldehyde oxime | 1.57 mmol, 0.460 g | FC=1C(=NC=CC1C=NO)C(F)(F)F | C7H4F4N2O
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 9.62 mmol, 0.63 g | [Zn] | Zn
product | C-(3-Fluoro-2-trifluoromethyl-pyridin-4-yl)-methylamine | FC=1C(=NC=CC1CN)C(F)(F)F | C7H6F4N2
